US08071592B2
(d) 1,1-Dimethylethyl {1-[2-(7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate
A mixture of (7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde (as the methyl hemiacetal) (327 mg, 1.286 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (283 mg, 1.1 eq.) in chloroform:methanol (9:1 v:v) (5 ml) was stirred for 2 h before addition of NaBH(OAc)3 (481 mg, 2 eq.). The reaction was stirred for 0.5 h before addition of sat. aq NaHCO3 (5 ml). The reaction was then diluted with DCM (80 mL) and the organic phase was separated using a hydrophobic frit. The aqueous phase was extracted with DCM (2×50 mL) The combined organic extracts were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% (2M NH3 in MeOH)/DCM gradient to provide the desired compound (345 mg, 66%) as a tan foam.

reactant | (7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | FC1=C[N+](=C2C=CC(N(C2=C1)CC=O)=O)[O-] | C10H7FN2O3
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 283 mg, 1.1 eq. | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 481 mg, 2 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform methanol | 5 ml | C(Cl)(Cl)Cl.CO
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl {1-[2-(7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 345 mg, 66% | FC1=C[N+](=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O)[O-] | C20H27FN4O4
